US04775692
Under argon atmosphere, a piece of lithium was added to a liquid ammonia (250 ml) in a three neck distillation flask. After the reaction mixture had became dark blue, a catalytic amount of ferric nitrate nonahydrate was added thereto under argon atmosphere. A piece of lithium (2.75 g, 396 mmol) was successively added over 30 min. and the mixture was stirred for one hour. Propargyl alcohol (8.16 g, 146 mmol) was then added and the mixture was stirred for 30 min. Further, n-pentyl bromide (20 g, 132 mmol) was added and the mixture was stirred for 10 min. and allowed to stand overnight at room temperature. To the resulting mixture were added hydrated ether (50 ml) and water (200 ml), and the mixture was then extracted with ether (200 ml, 100 ml, 50 ml×3). The combined ether layers were washed with water (400 ml) and with brine (400 ml), dried over anhydrous sodium sulfate (50 g), and concentrated. Distillation of the residue gave a colorless oily product of 2-octyne-1-ol (9.5758 g, 52%, B.p.: 58°-61° C./0.3 mmHg). The product was assigned the structure by the following data.

reactant | lithium | [Li] | Li
reactant | ammonia | 250 ml | N | H3N
reactant | lithium | 396 mmol, 2.75 g | [Li] | Li
reactant | Propargyl alcohol | 146 mmol, 8.16 g | C(C#C)O | C3H4O
reactant | n-pentyl bromide | 132 mmol, 20 g | C(CCCC)Br | C5H11Br
solvent | water | 200 ml | O | H2O
product | 2-octyne-1-ol | 9.5758 g, 52% | C(C#CCCCCC)O | C8H14O
